US07259154B2
4-Chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine
A solution of 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (Reference: Gerster, John F.; Hinshaw, Barbara C.; Robins, Roland K.; Townsend, Leroy B. Study of electrophylic substitution in the pyrrolo[2,3-d]pyrimidine ring. J. Heterocycl. Chem. (1969), -(2), 207-213) (20 g) and para-toluene sulfonylchloride (28.6 g) in toluene (1L) was treated with a solution of sodium hydroxide (50 g) in water (800 mL), and tetrabutyl ammonium sulfate (462 mg). The solution was stirred vigorously at room temperature for 2 hours and partitioned between ethyl acetate and brine. The organic phase was separated, then dried over magnesium sulfate and then evaporated under reduced pressure. The residue was subjected to flash column chromatography on silica eluting with a gradient of ethyl acetate and cyclohexane (50:50 to 80:20, v/v) to give the title compound (2.5 g) as a solid m.p.=143° C. LCMS (Method B) RT=2.78 minutes.

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | para-toluene sulfonylchloride | 28.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | 800 mL | O | H2O
catalyst | tetrabutyl ammonium sulfate | 462 mg | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 2.5 g | ClC=1C2=C(N=CN1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C13H10ClN3O2S
